US05091387
1'-((4-Methylphenyl)SULFONYL)SPIRO(1H-INDENE-1,4'-PIPERIDINE)
Spiro(1H-indene-1,4'-piperidine)hydrochloride (65 mg, 293 μmol) and p-toluenesulfonyl chloride (61.9 mg, 325 μmol) were combined in CH2Cl2 and treated with triethylamine (2 drops). The mixture was stirred at ambient temperature for 1 hour, then poured onto a silica gel column and eluted with 35% hexane in CH2Cl2. The product fractions were combined and evaporated to dryness in vacuo to provide the title compound which was crystallized from ether, filtered and dried in vacuo overnight at ambient temperature: (m.p. 168°-170°).

reactant | Spiro(1H-indene-1,4'-piperidine)hydrochloride | 293 μmol, 65 mg | Cl.N1CCC2(CC1)C=CC1=CC=CC=C12
reactant | p-toluenesulfonyl chloride | 325 μmol, 61.9 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | 1'-((4-Methylphenyl)SULFONYL)SPIRO(1H-INDENE-1,4'-PIPERIDINE) | CC1=CC=C(C=C1)S(=O)(=O)N1CCC2(CC1)C=CC1=CC=CC=C12 | C20H21NO2S
